US04165323
A mixture of 2-(3-methoxyphenyl-5-phenylpentane (20 g.) and pyridine hydrochloride (94 g.) under nitrogen is heated to 190° C. for 2 hours with vigorous stirring. The reaction mixture is cooled, dissolved in 6 N hydrochloric acid (200 ml.) and diluted with water to 600 ml. The aqueous solution is extracted with ethyl acetate (4×100 ml.), the ethyl acetate extracts dried over sodium sulfate and concentrated under vaccum to yield the crude product which is purified by silica gel chromatography to yield 2-(3-hydroxyphenyl)-5-phenylpentane as an oil.

reactant | 3-methoxyphenyl-5-phenylpentane | 20 g | COC=1C=C(C=CC1)CCCCCC1=CC=CC=C1 | C18H22O
reactant | pyridine hydrochloride | 94 g | Cl.N1=CC=CC=C1
solvent | hydrochloric acid | 6 N, 200 ml | Cl | ClH
solvent | water | O | H2O
product | 2-(3-hydroxyphenyl)-5-phenylpentane | OC=1C=C(C=CC1)C(C)CCCC1=CC=CC=C1 | C17H20O
